Vinamra Baghel 190010070 CMOS Inverter Transient Characteristics

.include CMOS.txt

*Netlist
M11 out1 in1 dd1 dd1 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M12 out1 in1 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl1 out1 0 0.05p
Vdd1 dd1 0 2
Vin1 in1 0 pulse(0 2 0 20p 20p 4n 8n 0)

M21 out2 in2 dd2 dd2 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M22 out2 in2 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl2 out2 0 0.05p
Vdd2 dd2 0 2.2
Vin2 in2 0 pulse(0 2.2 0 20p 20p 4n 8n 0)

M31 out3 in3 dd3 dd3 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M32 out3 in3 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl3 out3 0 0.05p
Vdd3 dd3 0 2.4
Vin3 in3 0 pulse(0 2.4 0 20p 20p 4n 8n 0)

M41 out4 in4 dd4 dd4 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M42 out4 in4 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl4 out4 0 0.05p
Vdd4 dd4 0 2.6
Vin4 in4 0 pulse(0 2.6 0 20p 20p 4n 8n 0)

M51 out5 in5 dd5 dd5 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M52 out5 in5 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl5 out5 0 0.05p
Vdd5 dd5 0 2.8
Vin5 in5 0 pulse(0 2.8 0 20p 20p 4n 8n 0)

M61 out6 in6 dd6 dd6 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M62 out6 in6 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl6 out6 0 0.05p
Vdd6 dd6 0 3
Vin6 in6 0 pulse(0 3 0 20p 20p 4n 8n 0)

M71 out7 in7 dd7 dd7 cmosp L=0.4u W=60u AS=48p PS=121.6u AD=48p PD=121.6u
M72 out7 in7 0 0 cmosn L=0.4u W=30u AS=24p PS=61.6u AD=24p PD=61.6u
Cl7 out7 0 0.05p
Vdd7 dd7 0 3.3
Vin7 in7 0 pulse(0 3.3 0 20p 20p 4n 8n 0)

*Analysis
.tran 0.1n 20n

.control
run
set color0 = white
set color1 = black
set color2 = red
set color3 = blue
set color4 = green
set color5 = orange
set xbrushwidth = 3

meas tran tin1 when V(in1)=1
meas tran tin2 when V(in2)=1.1
meas tran tin3 when V(in3)=1.2
meas tran tin4 when V(in4)=1.3
meas tran tin5 when V(in5)=1.4
meas tran tin6 when V(in6)=1.5
meas tran tin7 when V(in7)=1.65
meas tran tout1 when V(out1)=1
meas tran tout2 when V(out2)=1.1
meas tran tout3 when V(out3)=1.2
meas tran tout4 when V(out4)=1.3
meas tran tout5 when V(out5)=1.4
meas tran tout6 when V(out6)=1.5
meas tran tout7 when V(out7)=1.65
let tp1 = tout1-tin1
let tp2 = tout2-tin2
let tp3 = tout3-tin3
let tp4 = tout4-tin4
let tp5 = tout5-tin5
let tp6 = tout6-tin6
let tp7 = tout7-tin7

print tp1 tp2 tp3 tp4 tp5 tp6 tp7
.endc
.end